* C:\Users\Vicente\Desktop\UC\Semestre 11\Proyectos\ICD\Analog\Components\ota.asc
M1 X Vip N002 0 nmos_3p3 l='Lpair' w='Wpair' m=1
M2 Y Vim N002 0 nmos_3p3 l='Lpair' w='Wpair' m=1
M3 N002 N001 0 0 nmos_3p3 l='Ltail' w='Wtail' m=1
M4 N001 N001 0 0 nmos_3p3 l='Ltail' w='Wtail' m=4
I1 Vdd N001 8µ
V1 Vdd 0 3.3
V2 N007 0 {Vicm}
V3 Vip N007 {vid/2} AC 1
V4 N007 Vim {vid/2} AC 1
M5 Vdd vm2 X Vdd pmos_3p3 l='Lmirr' w='W5'
M6 X Vb2 Vom Vdd pmos_3p3 l='Lcas' w='W3'
M7 Vom Vb1 N003 0 nmos_3p3 l='Lcas' w='W7'
M8 N003 vm1 0 0 nmos_3p3 l='Lmirr' w='a*W9'
M9 vm1 vm1 0 0 nmos_3p3 l='Lmirr' w='W9' m=4
I2 Vdd vm1 8µ
M10 Vdd vm2 Y Vdd pmos_3p3 l='Lmirr' w='W5'
M11 Y Vb2 Vop Vdd pmos_3p3 l='Lcas' w='W3'
M12 Vop Vb1 N004 0 nmos_3p3 l='Lcas' w='W7'
M13 N004 vm1 0 0 nmos_3p3 l='Lmirr' w='a*W9'
M14 Vdd vm2 vm2 Vdd pmos_3p3 l='Lmirr' w='W5' m=4
I3 vm2 0 12µ
V5 Vb1 0 0.88
V6 Vb2 0 2.33
R3 Voc N005 1k
R4 N006 Voc 1k
E1 N005 0 Vop 0 1
E2 N006 0 Vom 0 1
E3 Vctr 0 Voc Vocm_target 50
V7 Vocm_target 0 1.65
M15 N003 vctr 0 0 nmos_3p3 l='Lmirr' w='(1-a)*W9'
M16 N004 vctr 0 0 nmos_3p3 l='Lmirr' w='(1-a)*W9'
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vicente\AppData\Local\LTspice\lib\cmp\standard.mos
.param Wpair=0.77u Lpair=0.84u
.param Wtail=1.27u Ltail=2.24u
.param vid=0 Vicm=1.65
.inc ..\..\gf180\cmos_tt.txt
.op
.param W5=27.03u W3=7.92u W7=1.92u W9=4.05u Lmirr=1.12u Lcas=0.84u
.param Vocm_target=1.65
* .tran 1u
.param a=0.7
* .ac dec 1000 1 10G
.backanno
.end
