* C:\Users\Vicente\Desktop\UC\Semestre 11\Proyectos\ICD\Analog\Components\ota_v4.asc
M1 Vdd vm3 N002 Vdd pmos_3p3 l='Lmirr' w='W5' m=Mcopy_fold
M2 N002 Vb2 vm3 Vdd pmos_3p3 l='Lcas' w='W3' m=Mcopy_cas
M3 N005 vm2 0 0 nmos_3p3 l='Lmirr' w='W9' m=Mcopy_cas
M4 vm2 Vb1 N005 0 nmos_3p3 l='Lcas' w='W7' m=Mcopy_cas
M5 Vb1 a vm2 0 nmos_3p3 l='Lcas' w='(1/6)*W7' m=Mcopy_cas
M6 a a Vb1 0 nmos_3p3 l='Lcas' w='W7' m=Mcopy_cas
M7 vm3 c Vb2 Vdd pmos_3p3 l='Lcas' w='(1/5)*W3' m=Mcopy_cas
M8 Vb2 c c Vdd pmos_3p3 l='Lcas' w='W3' m=Mcopy_cas
M9 X Vip N006 0 nmos_3p3 l='Lpair' w='Wpair' m=1
M10 Y Vim N006 0 nmos_3p3 l='Lpair' w='Wpair' m=1
M11 N006 vm1 0 0 nmos_3p3 l='Ltail' w='Wtail' m=1
M12 vm1 vm1 0 0 nmos_3p3 l='Ltail' w='Wtail' m=Mcopy_tail
V1 Vdd 0 3.3 AC 1
V2 N009 0 {Vicm} AC 0
V3 Vip N009 {vid/2} AC 0
V4 N009 Vim {vid/2} AC 0
M13 Vdd vm3 X Vdd pmos_3p3 l='Lmirr' w='W5' m=1
M14 X Vb2 Vom Vdd pmos_3p3 l='Lcas' w='W3' m=1
M15 Vom Vb1 N007 0 nmos_3p3 l='Lcas' w='W7'
M16 N007 vm2 0 0 nmos_3p3 l='Lmirr' w='a*W9'
M17 Vdd vm3 Y Vdd pmos_3p3 l='Lmirr' w='W5' m=1
M18 Y Vb2 Vop Vdd pmos_3p3 l='Lcas' w='W3' m=1
M19 Vop Vb1 N008 0 nmos_3p3 l='Lcas' w='W7'
M20 N008 vm2 0 0 nmos_3p3 l='Lmirr' w='a*W9'
V5 Vocm_target 0 1.65
M21 N007 vctr 0 0 nmos_3p3 l='Lmirr' w='(1-a)*W9'
M22 N008 vctr 0 0 nmos_3p3 l='Lmirr' w='(1-a)*W9'
C1 Vom 0 100f
C2 Vop 0 100f
M23 N004 vm1 0 0 nmos_3p3 l='Ltail' w='Wtail' m=Mcopy_tail
M24 Vdd N004 N004 Vdd pmos_3p3 l='Lcopy' w='Wcopy_p'
M25 Vdd N004 a Vdd pmos_3p3 l='Lcopy' w='Wcopy_p'
M26 c vm1 0 0 nmos_3p3 l='Ltail' w='Wtail' m=Mcopy_tail
M27 N003 N003 vm1 0 nmos_3p3 l='Ltail' w=2.64u m=3
M28 Vdd N001 N001 Vdd pmos_3p3 l='Ltail' w='Wcopy_p'
XX1 CK_PHI1 CK_PHI1_BAR CK_PHI2 CK_PHI2_BAR NC_01 Vdd NC_02 NC_03 NC_04 NC_05 cs_cmfb
V6 CK_PHI2 0 PULSE(0 3.3 0 100p 100p 50n 100n)
V7 CK_PHI1 0 PULSE(0 3.3 62.5n 100p 100p 25n 100n)
XX2 CK_PHI2 Vdd CK_PHI2_BAR 0 invx1
XX3 CK_PHI1 Vdd CK_PHI1_BAR 0 invx1
R1 Voc N010 1k
R2 N011 Voc 1k
E1 N010 0 Vom 0 1
E2 N011 0 Vop 0 1
E3 vctr 0 Voc Vocm_target 50
R3 N001 N003 45833.33

* block symbol definitions
.subckt cs_cmfb CK_PHI1 CK_PHI1_BAR CK_PHI2 CK_PHI2_BAR Vbias Vdd Vocm_ref Vom Vop Vctr
XX1 CK_PHI2 CK_PHI2_BAR N001 Vdd Vop tgate
XX2 CK_PHI2 CK_PHI2_BAR N003 Vdd Vctr tgate
XX3 CK_PHI1 CK_PHI1_BAR Vocm_ref Vdd N001 tgate
XX4 CK_PHI1 CK_PHI1_BAR Vbias Vdd N003 tgate
C1 N001 N003 {C1}
C2 Vop Vctr {C2}
XX5 CK_PHI2 CK_PHI2_BAR N002 Vdd Vom tgate
XX6 CK_PHI2 CK_PHI2_BAR N004 Vdd Vctr tgate
XX7 CK_PHI1 CK_PHI1_BAR Vocm_ref Vdd N002 tgate
XX8 CK_PHI1 CK_PHI1_BAR Vbias Vdd N004 tgate
C3 N002 N004 {C1}
C4 Vom Vctr {C2}
.param C1=3p C2=1p
.ends cs_cmfb

.subckt invx1 A Vdd X Vee
M1 X A Vee Vee nmos_3p3 l={L} w={Wn}
M2 Vdd A X Vdd pmos_3p3 l={L} w={Wp}
.param Wp=3u Wn=1u L=0.28u
.ends invx1

.subckt tgate A A_bar IN Vdd OUT
M1 IN A OUT 0 nmos_3p3 l='L' w='Wn' m='M'
M2 OUT A_bar IN Vdd pmos_3p3 l='L' w='Wp' m='M'
.param L=0.28u Wn=1u Wp=2u M=1
.ends tgate

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vicente\AppData\Local\LTspice\lib\cmp\standard.mos
.param Wpair=45.2u Lpair=1.12u
.param Wtail=2.64u Ltail=4.48u
.param vid=0 Vicm=1.65
.inc ..\..\gf180\cmos_tt.txt
.op
.param W5=22.99u W3=7.92u W7=1.92u W9=3.53u Lmirr=2.24u Lcas=0.84u
.param Vocm_target=1.65
* .tran 10u
.param a=0.7
* .ac dec 1000 1 10G
* .dc param vid -40m 40m 100u
.meas dc_gain max mag(V(vop)-V(vom))
.meas ac bw find mag(V(vop)-V(vom)) when mag(V(vop)-V(vom))=dc_gain/sqrt(2)
.param Lcopy=4.48u Wcopy_p=35.91u
* Master CURRENT BRANCH\n- M12 copies current to tail transistor. (6uA -> 2uA)\n- M26 copies current to cascode NMOS current mirrors. (6uA -> 6uA)\n- M24, M25 copies current to cascode PMOS. (6uA -> 6uA)
* INPUT DIFFERENTIAL PAIR\n- gm/Id pair: 23.8\n- gm/Id tail: 8
* .noise V(vop,vom) V3 dec 1000 1 20k
.meas noise VNOISE_RMS integ V(onoise)
.meas DC vo_swing FIND V(vop,vom) WHEN deriv(V(vop,vom))=500
.meas ac av_dc_dm AVG V(vop,vom) from=1 to=10
.param Mn=2 Mp=4 Mcopy_tail=3
.param Mcopy_cas=3 Mcopy_fold=2
* CURRENT MIRROR FOR CASCODE BRANCH\n- Mcopy_cas: 6uA -> 2uA\n- Mcopy_fold: 6uA -> 3uA
* COPIES CURRENT TO PMOS CASCODE BRANCH
* COPIES CURRENT TO NMOS CASCODE BRANCH
.measure tran iavg AVG i(V1) from=4u to=5u
.measure tran iclk_phi2_avg AVG i(V6) from=4u to=5u
.measure tran iclk_phi1_avg AVG i(V7) from=4u to=5u
.measure tran pclk2 PARAM='-iclk_phi2_avg*3.3'
.measure tran pclk1 PARAM='-iclk_phi1_avg*3.3'
.measure tran pavg PARAM='-iavg*3.3'
.measure tran ptot PARAM='pavg+pclk1+pclk2'
* OUTPUT CASCODE BRANCH\n- gm/Id M13/17: 14\n- gm/Id M14/18: 12\n- gm/Id M15/19: 12\n- gm/Id M16/20: 14
* SC CMFB
* IDEAL CMFB JUST FOR TESTING (.AC, .DC, .OP, .NOISE)
.backanno
.end
